US06740647B1
c) 5-Bromomethyl-3-methylthiophene-2-carbonitrile
44 g (167 mmol) of triphenylphosphine were added to a solution of 24 g (152 mmol) of 5-hydroxymethyl-3-methylthiophene-2-carbonitrile in 180 ml of tetrahydrofuran. Then, a solution of 55 g (167 mmol) of tetrabromomethane in 100 ml of tetrahydrofuran was added. The mixture was stirred for 90 minutes at room temperature. The reaction mixture was concentrated on a rotary evaporator under a water pump vacuum, and the residue was purified by column chromatography (eluant hexane:ethyl acetate 8:2). This gave 34 g of the title compound which still contained a small amount of solvent. 1H NMR (270 MHz, DMSO-d6): δ=2.4 (s, 3H), 5.0 (s, 2H), 7.3 (s, 1H).

reactant | triphenylphosphine | 167 mmol, 44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-hydroxymethyl-3-methylthiophene-2-carbonitrile | 152 mmol, 24 g | OCC1=CC(=C(S1)C#N)C | C7H7NOS
reactant | tetrabromomethane | 167 mmol, 55 g | BrC(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Bromomethyl-3-methylthiophene-2-carbonitrile | BrCC1=CC(=C(S1)C#N)C | C7H6BrNS
